US04737452
A mixture of 13.2 g of (4-carboethoxyphenyl)thiosemicarbazide, 52.8 ml of ethyl orthoformate, and 3.3 g of acetic acid was stirred for 2 hours at 120° C. After cooling the mixture to room temperature, hexane was added to the mixture and crystals thus formed were collected by filtration and recrystallized from ethanol to provide 10.4 g of 1-(4-carboethoxyphenyl)-2-mercapto-1,3,4-triazole. The yield was 75.9% and the melting point was 194°-196° C.

reactant | (4-carboethoxyphenyl)thiosemicarbazide | 13.2 g | C(=O)(OCC)C1=CC=C(C=C1)NNC(=S)N | C10H13N3O2S
reactant | ethyl orthoformate | 52.8 ml | C(OCC)([O-])[O-]
reactant | acetic acid | 3.3 g | C(C)(=O)O | C2H4O2
reactant | hexane | CCCCCC | C6H14
product | 1-(4-carboethoxyphenyl)-2-mercapto-1,3,4-triazole | 10.4 g, yield was 75.9% | C(=O)(OCC)C1=CC=C(C=C1)N1C(=NN=C1)S | C11H11N3O2S
